US07655686B2
c) (2R,4R)-2-allyl-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
3.3 g (8.27 mmol) (2R,4R)-(2-allyl-4-(tert-butyl-dimethyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester are dissolved in 60 mL THF, cooled below 5° C. and treated with 8.68 mL (1.05 eq) 1 M TBAF in THF under stirring. The reaction mixture is allowed to slowly reach room temperature, while being stirred another 4 h. Ice and AcOEt are added, the mixture washed with brine twice, and the organic phase evaporated to yield a crude product which is column chromatographed (silica gel, TBME/petroleum ether 1:1) to yield 1.8 g desired product as a colorless, thick oil, which is used as such in the next step.

reactant | 2-allyl-4-(tert-butyl-dimethyl-silanyloxy)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1(N(CC(C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)CC=C | C20H37NO5Si
reactant | TBAF | 1 M, 8.68 mL, 1.05 eq | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2R,4R)-2-allyl-4-hydroxy-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 1.8 g | COC(=O)[C@@]1(N(C[C@@H](C1)O)C(=O)OC(C)(C)C)CC=C | C14H23NO5
